US06972294B1
(E)-(2S)-3-[4-(3-Biphenyl-4-yl-3-phenyl-allyloxy)-phenyl]-2-ethoxy-propionic acid ethyl ester
Reaction of (E)-3-biphenyl-4-yl-3-phenyl-prop-2-en-1-ol (1.0 g, 3.49 mmol), tributylphosphine (1.3 ml, 5.24 mmol), (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (0.92 g, 3.84 mmol) and azodicarboxylic dipiperidide (1.32 g, 5.24 mmol) in benzene in an identical manner to example 3 gave the title compound (1.47 g, 83%).

reactant | (E)-3-biphenyl-4-yl-3-phenyl-prop-2-en-1-ol | 3.49 mmol, 1.0 g | C1(=CC=C(C=C1)/C(=C/CO)/C1=CC=CC=C1)C1=CC=CC=C1 | C21H18O
reactant | tributylphosphine | 5.24 mmol, 1.3 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 3.84 mmol, 0.92 g | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (E)-(2S)-3-[4-(3-Biphenyl-4-yl-3-phenyl-allyloxy)-phenyl]-2-ethoxy-propionic acid ethyl ester | 1.47 g, 83% | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C(/C1=CC=CC=C1)\C1=CC=C(C=C1)C1=CC=CC=C1)OCC)=O | C34H34O4
